Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: DES placed in LCx
 
History of Present Illness:
Mr. ___ presented to ___ at ___ with crushing 
substernal chest pain, associated with ST elevations in the 
inferior and apical leads. He was transferred to ___ for 
emergent PCI.

His history from ___ includes:
Presented with an hour of substernal chest pain waking him from 
sleep around ___. He notes accompanying nausea, diaphoresis, 
and shortness of breath. The pain is primarily retrosternal and 
crushing in character. Of note, he says that the discomfort had 
started earlier in the evening when he was in his garden digging 
in a tree trunk. He notes feeling some fatigue and shortness of 
breath but attributed it to exertion and the heat.

At ___, he received two doses of nitroglycerin a full 
aspirin, 
and fentanyl with partial relief of the pain. Has not had pain 
like this before. No exertional symptoms. 
Had several episodes of bradycardia to ___ per EMS.

His EKG at ___ was concerning for an inferolateral ST 
elevation MI, with most prominent elevation in lead II. The 
morphology of these ST elevations appears convex. Bedside 
limited ultrasound shows no obvious
evidence of pericardial effusion or obvious aortic dilatation

Otherwise, labs were unremarkable (lytes normal, CBC normal, 
liver enzymes normal, Troponin negative). Coag labs include ___ 
11.2 INR 1 and PTT 29.5.

On arrival to ___, he was taken to the cath lab.

___: Troponin 0.04

In cath lab, he was found to have distal 100% occlusion in LCx 
but otherwise unremarkable coronary disease. Successful PCI was 
performed using a single DES and patient was loaded with 
Ticagrelor. The patient was then brought to the CCU. 

 
Past Medical History:
Arthritis (back)
Knee surgery x 2
Prostate cancer s/p resection
Pulmonary embolism ___ years ago, was on Coumadin but 
discontinued
 
Social History:
___
Family History:
Significant for aneurysms (brain, abdominal) in father, niece 
(aged ___, sister, and brother.
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  No family of hypertension.
 
Physical Exam:
Admission physical exam:
VS: T  BP 127/73 HR 58 RR 22 O2 98%  
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. Moist mucous membranes.
NECK: Supple. No JVD appreciated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: R wrist banding. Warm, well perfused. No clubbing, 
cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

Discharge physical exam:
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. Moist mucous membranes.
NECK: Supple. No JVD appreciated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing,
cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
Admission labs:
--------------------
___ 03:44PM   CK-MB-175* cTropnT-8.87*
___ 07:50AM   GLUCOSE-128* UREA N-19 CREAT-1.0 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-19* ANION GAP-14
___ 07:50AM   estGFR-Using this
___ 07:50AM   CK-MB-179* cTropnT-2.86*
___ 07:50AM   CALCIUM-8.8 PHOSPHATE-2.0* MAGNESIUM-2.0
___ 07:50AM   WBC-5.5 RBC-4.41* HGB-13.6* HCT-40.4 MCV-92 
MCH-30.8 MCHC-33.7 RDW-12.3 RDWSD-41.0
___ 07:50AM   NEUTS-76.2* LYMPHS-17.2* MONOS-4.6* EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-4.18 AbsLymp-0.94* AbsMono-0.25 
AbsEos-0.05 AbsBaso-0.02
___ 07:50AM   PLT COUNT-165
___ 07:50AM   ___ PTT-87.4* ___
___ 05:23AM   CK-MB-9 cTropnT-0.04*

Pertinent labs:
-------------------
___ 07:50AM BLOOD CK-MB-179* cTropnT-2.86*
___ 03:44PM BLOOD CK-MB-175* cTropnT-8.87*
___ 05:45AM BLOOD CK-MB-49* MB Indx-4.9 cTropnT-3.29*
___ 05:45AM BLOOD CK(CPK)-1001*

Discharge labs:
-------------------
___ 06:00AM BLOOD WBC-4.3 RBC-4.81 Hgb-14.6 Hct-44.3 MCV-92 
MCH-30.4 MCHC-33.0 RDW-12.5 RDWSD-42.0 Plt ___
___ 07:50AM BLOOD Neuts-76.2* Lymphs-17.2* Monos-4.6* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-4.18 AbsLymp-0.94* 
AbsMono-0.25 AbsEos-0.05 AbsBaso-0.02
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-113* UreaN-18 Creat-1.1 Na-144 
K-4.5 Cl-105 HCO3-23 AnGap-16
___ 05:45AM BLOOD CK(CPK)-1001*
___ 05:45AM BLOOD CK-MB-49* MB Indx-4.9 cTropnT-3.29*
___ 06:00AM BLOOD Calcium-9.5 Phos-2.4* Mg-2.3

Pertinent imaging/ studies:
-------------------
Echo ___
The left atrial volume index is normal. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with basal to mid 
infero/anterolateral hypokinesis. Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The tricuspid valve leaflets are mildly thickened. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

 IMPRESSION: 
 1) Mild regional LV systolic dysfunction c/w prior myocardial 
infarction in the ___ territory. Global LV systolic function is 
preserved as evidenced by normal LVEF and global longitudinal 
strain of -17.2%.  

Cath ___
Coronary Anatomy
Right dominant
LM: No disease.
LAD: Mild irregularities.
LCx: Distal 100% occlusion.
RCA: Mild irregularities.
Interventional Details
We proceeded with PCI of the LCx occlusion. EBU3.5 guide engaged 
the LM. The lesion was wired with
a Runthrough wire which reestablished flow. Angioplasty with a 
2.5 balloon followed by placement of a
3.0 x 15 mm Onyx DES. Post-dilated with a 3.5 NC balloon at 
___ ATM.
TIMI III flow, 0% residual.
 
Brief Hospital Course:
Mr. ___ presented to ___ at ___ with crushing 
substernal chest pain, associated with ST elevations in the 
inferior and apical leads, transferred to ___ for emergent 
PCI, found to have STEMI in left circumflex s/p DES. 

ACTIVE ISSUE:
# STEMI: Mr. ___ had no history of ACS but found to have 
STEMI in L Cx per cath. S/p ___ 1 in LCx. The patient is a 
Killip Class I indicating 6% mortality based on an updated study 
in JAMA performed at ___ and ___ 
published in ___. After placement of his DES, he was started on 
DAPT: Aspirin 81mg daily and Ticagrelor 90 mg BID for at least ___ 
year. He was also started on Atorvastatin 80mg Daily. For beta 
blockade, he was started on metoprolol tartrate 12.5mg BID which 
was decreased to 6.25mg BID prior to transfer out of CCU due to 
HR in the ___ it was increased back to Metoprolol Succinate XL 
12.5 mg PO daily, which was his discharge medication. He was 
also started on low dose lisinopril 5mg daily, but this was 
stopped due to hypotension in the setting of activity. TTE 
revealed normal EF and mild regional LV systolic dysfunction 
consistent with myocardial infarction in the ___ territory. 
Troponins and CK trended down. He was discharged on ___ with a 
cardiology appointment on ___ but with plan to try to follow up 
with cardiology sooner (within 1 month of discharge).

CHRONIC ISSUES:
# Arthritis: Patient has history of arthritis in his back, and 
he was taking naproxen at home. We informed the patient that 
naproxen and NSAIDs are not an option and offered Tylenol for 
pain. He did not require any pain medications during 
hospitalization.

# Aneurysms: Patient has an extensive family history of 
aneurysms, which is concerning for a genetic connective tissue 
disease. Patient and his wife are really anxious about this 
history, so please consider working this up or following up as 
outpatient.

TRANSITIONAL:
-------------
[ ] Will need DAPT (aspirin and Ticagrelor for at least ___ year, 
with aspirin for life
[ ] Will need to follow up with cardiology within 1 month of 
discharge
[ ] Consider repeat TTE within a few months
[ ] Will need to follow up with PCP 1 week following discharge
[ ] Consider working up family history of aneurysms

NEW MEDICATIONS:
---------------
- ASA 81mg PO daily
- Atorvastatin 80 mg PO daily
- Metoprolol Succinate XL 12.5 mg PO DAILY 
- Ticagrelor 90 mg PO/NG BID

STOPPED MEDICATIONS:
- Naproxen

# CODE:  FULL (presumed)
# CONTACT/HCP:  ___  ___ 
___ ___     
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO Q8H:PRN Pain - Moderate 
2. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Severe 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
3.  Metoprolol Succinate XL 12.5 mg PO DAILY  
4.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
5.  Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Severe  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STEMI s/p ___ 1 in LCx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care here at ___ 
___.

WHY YOU WERE HERE:
- You presented with chest pain and were found to have a 
complete obstruction in one of the arteries that provides blood 
supply to your heart (Left circumflex artery)

WHAT HAPPENED WHILE YOU WERE HERE:
- You were taken to the catheterization lab, where a stent was 
placed in the blocked artery
- Your heart function was evaluated with an ultrasound and was 
found to be only mildly decreased in one area of your heart. 
Your ejection fraction (measurement of amount of blood leaving 
your heart each time it contracts) was normal.

WHAT TO DO WHEN YOU LEAVE:
- You were started on two medications (aspirin 81mg daily and 
ticagrelor 90mg twice daily), which are very important for 
ensuring your stent stays open. You must continue to take 
ticagrelor for one year, and you will be taking aspirin for 
life.
- You were also started on a cholesterol-lowering agent called 
atorvastatin
- You were started on a beta-blocker medication called 
metoprolol, which will also prevent further damage to your heart
- It is important that you stop taking naproxen and any other 
NSAIDs such as ibuprofen and Advil, as these can worsen your 
heart function. You can take Tylenol for pain.
- You will need to follow up with a cardiologist within the next 
month. See below.
- We also recommend that you see your PCP ___ ___ days.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___